US09119868B2
NEt3 (0.490 mL, 3.51 mmol) was added to a suspension of (4-bromo-3-chlorophenyl)boronic acid (364 mg, 1.546 mmol) in DCM (7 mL) and the resulting solution was added dropwise to mixture of ethyl 6-amino-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate (500 mg, 1.405 mmol), copper(II) acetate (281 mg, 1.546 mmol), 3A molecular sieves (1 g) and NEt3 (0.490 mL, 3.51 mmol) in DCM (7 mL) stirring vigorously at RT open to the air in a flask equipped with a drying tube. After stirring for 4 h at RT, another solution of NEt3 (0.490 mL, 3.51 mmol) and (4-bromo-3-chlorophenyl)boronic acid (364 mg, 1.546 mmol) in DCM (7 mL) was added dropwise to the reaction mixture, followed by more copper(II) acetate (281 mg, 1.546 mmol). The reaction mixture was stirred for 3 d and more solution of NEt3 (0.490 mL, 3.51 mmol) and (4-bromo-3-chlorophenyl)boronic acid (364 mg, 1.546 mmol) in DCM (7 mL) was added dropwise with further addition of copper(II) acetate (281 mg, 1.546 mmol). After 2 h, EtOAc was added followed by Celite. The mixture was stirred for 30 min then filtered through a pad of Celite and the brown solution was concentrated to dryness. EtOAc was added followed by water. The organic layer was separated, washed with water, brine, dried over MgSO4, filtered and concentrated. The crude product was purified on silica gel (hex/EtOAc) to give ethyl 6-((4-bromo-3-chlorophenyl)amino)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate (685 mg, 1.231 mmol, 88% yield) as an orange foam. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.17 (s, 1H), 7.98-8.07 (m, 2H), 7.58-7.65 (m, 3H), 7.49-7.56 (m, 2H), 7.11 (d, 1H), 6.87 (dd, 1H), 4.36 (q, 2H), 1.95-2.12 (m, 1H), 1.36 (t, 3H), 0.93-1.05 (m, 2H), 0.57-0.71 (m, 2H).

reactant | NEt3 | 3.51 mmol, 0.490 mL | CCN(CC)CC | C6H15N
reactant | (4-bromo-3-chlorophenyl)boronic acid | 1.546 mmol, 364 mg | BrC1=C(C=C(C=C1)B(O)O)Cl | C6H5BBrClO2
reactant | ethyl 6-amino-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate | 1.405 mmol, 500 mg | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)OCC)C=C1C1CC1 | C20H18ClNO3
reactant | NEt3 | 3.51 mmol, 0.490 mL | CCN(CC)CC | C6H15N
reactant | NEt3 | 3.51 mmol, 0.490 mL | CCN(CC)CC | C6H15N
reactant | (4-bromo-3-chlorophenyl)boronic acid | 1.546 mmol, 364 mg | BrC1=C(C=C(C=C1)B(O)O)Cl | C6H5BBrClO2
reactant | NEt3 | 3.51 mmol, 0.490 mL | CCN(CC)CC | C6H15N
reactant | (4-bromo-3-chlorophenyl)boronic acid | 1.546 mmol, 364 mg | BrC1=C(C=C(C=C1)B(O)O)Cl | C6H5BBrClO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 1.546 mmol, 281 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 1.546 mmol, 281 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 1.546 mmol, 281 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | ethyl 6-((4-bromo-3-chlorophenyl)amino)-2-(4-chlorophenyl)-5-cyclopropylbenzofuran-3-carboxylate | 1.231 mmol, 685 mg, 88% yield | BrC1=C(C=C(C=C1)NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)OCC)C=C1C1CC1)Cl | C26H20BrCl2NO3
